US05716624
(b) Preparation of methyl 3methyl-4-iodobenzoate
24.4 g (0.093 mol) of 3-methyl-4-iodobenzoic acid and 250 ml of methanol were introduced into a round-bottomed flask and 2.5 ml of concentrated sulfuric acid were added dropwise. Heating was carried out at reflux for twelve hours, the reaction mixture was evaporated and the residue taken up in ethyl acetate and water. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue was triturated in methanol and filtered. 21.9 g (85%) of the expected methyl ester, with a melting point of 58°-59° C., were recovered.

reactant | 3-methyl-4-iodobenzoic acid | 0.093 mol, 24.4 g | CC=1C=C(C(=O)O)C=CC1I | C8H7IO2
reactant | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 250 ml | CO | CH4O
product | methyl 3methyl-4-iodobenzoate | CC=1C=C(C(=O)OC)C=CC1I | C9H9IO2
